* NGSPICE file created from copy.ext - technology: sky130A

.subckt copy A VDD VGND Y
X0 out1 A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.381 pd=3.14 as=0.381 ps=3.14 w=1.27 l=0.15
**devattr s=15240,628 d=15240,628
X1 Y out1 VDD VDD sky130_fd_pr__pfet_01v8 ad=0.381 pd=3.14 as=0.381 ps=3.14 w=1.27 l=0.15
**devattr s=15240,628 d=15240,628
X2 Y out1 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X3 out1 A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
C0 VDD Y 0.1642f
C1 VDD out1 0.33741f
C2 VDD A 0.07945f
C3 Y out1 0.04407f
C4 A out1 0.05503f
C5 Y VGND 0.17045f
C6 VDD VGND 1.07612f
C7 A VGND 0.31f
C8 out1 VGND 0.37927f
.ends

